US06924293B2
Using the general method of Example 242, except that chloroform was used in place of dichloromethane, 1-(3-aminopropyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 5.32 mmol) was reacted with methanesulfonyl chloride (3+ g) to provide 1.38 g of N-{3-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide as a solid, m.p. 176-178° C. Analysis: Calculated for C23H27N5O3S: % C, 60.91; % H, 6.00; % N, 15.44; Found: % C, 60.71; % H, 5.98; % N, 15.45.

reactant | 1-(3-aminopropyl)-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.32 mmol, 2.00 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCOC2=CC=CC=C2 | C22H25N5O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-2-(3-phenoxypropyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide | 1.38 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNS(=O)(=O)C)CCCOC2=CC=CC=C2 | C23H27N5O3S
